US07977371B2
2-Aminocarbonylamino-5-(2-acetoxyphenyl)pyrrole-3-carboxamide (Compound No. 5-1)
Triethylamine (80 μL, 0.57 mmol) and acetyl chloride (33 μL, 0.46 mmol) were added to a solution of 2-aminocarbonylamino-5-(2-hydroxyphenyl)pyrrole-3-carboxamide (Compound No. 3-1, 100 mg, 0.39 mmol) in anhydrous N,N-dimethylformamide (2 mL), and the mixture was stirred overnight at room temperature. After the reaction solution was concentrated in vacuo, the residue was purified by silica gel column chromatography to give the target compound (41 mg) as a green-brown solid (Yield 35%).

reactant | Triethylamine | 0.57 mmol, 80 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.46 mmol, 33 μL | C(C)(=O)Cl | C2H3ClO
reactant | 2-aminocarbonylamino-5-(2-hydroxyphenyl)pyrrole-3-carboxamide | 0.39 mmol, 100 mg | NC(=O)NC=1NC(=CC1C(=O)N)C1=C(C=CC=C1)O | C12H12N4O3
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-Aminocarbonylamino-5-(2-acetoxyphenyl)pyrrole-3-carboxamide | 41 mg, Yield 35% | NC(=O)NC=1NC(=CC1C(=O)N)C1=C(C=CC=C1)OC(C)=O | C14H14N4O4
